US08476297B2
To a round-bottomed flask was added crude benzyl 1-(6-chloropyridin-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (170 mg, 449 μmol), CH2Cl2 (10 mL) and TFA (10 mL). The reaction was allowed to stir at RT. After 3 days, LC-MS shows little progress. The reaction was concentrated in vacuo to remove CH2Cl2 and the resulting solution allowed to stir for another 3 days, then cautiously poured into 10% Na2CO3 and extracted with CH2Cl2 (3×20 mL). The combined organic layers were concentrated in vacuo and purified by reverse-phase preparative HPLC (Shimadzu) on a Phenomenex Gemini® column (5 micron, C18, 110 Å, Axia, 100×50 mm) eluting at 90 mL/min with an linear gradient of 10% to 100% MeCN (0.1% TFA) in water (0.1% TFA) over 20 min to give crude 1-(6-chloropyridin-3-yl)-1,2,3,4-tetrahydroisoquinoline as a white solid. The crude solid was carried into the next step. MS (ESI pos. ion) m/z: 245 (M+1).

reactant | benzyl 1-(6-chloropyridin-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 449 μmol, 170 mg | ClC1=CC=C(C=N1)C1N(CCC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C22H19ClN2O2
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-chloropyridin-3-yl)-1,2,3,4-tetrahydroisoquinoline | ClC1=CC=C(C=N1)C1NCCC2=CC=CC=C12 | C14H13ClN2
